US04101541
11.8 parts (0.06 mol) of N-chloro-trichloroacetamidine are dissolved in 35 parts by volume of 50% strength methanol. A solution of 6.5 parts (0.066 mol) of potassium thiocyanate is added dropwise to the above solution at 0 to 5° C. After standing for one hour at 0° to 5° C, a precipitate forms, which is filtered off after 4 hours and is recrystallised from aqueous alcohol with addition of active charcoal. 8.4 parts of 3-trichloromethyl-5-amino-1,2,4-thiadiazole are isolated. Melting point 192° to 194° C (with decomposition).

reactant | N-chloro-trichloroacetamidine | 0.06 mol | ClNC(C(Cl)(Cl)Cl)=N | C2H2Cl4N2
reactant | potassium thiocyanate | 0.066 mol | [S-]C#N.[K+]
solvent | methanol | CO | CH4O
product | 3-trichloromethyl-5-amino-1,2,4-thiadiazole | ClC(C1=NSC(=N1)N)(Cl)Cl | C3H2Cl3N3S
